*************************************************
* CMOS Inverter – Academic Full Simulation
*************************************************

.global Vdd Gnd

VDD vdd Gnd 1.8
VIN in  Gnd PULSE(0 1.8 0 1n 1n 10n 20n)

CL out Gnd 10f

M1000 out in vdd vdd pfet w=10u l=3u
+ ad=110p pd=42u as=70p ps=34u

M1001 out in Gnd Gnd nfet w=8u l=3u
+ ad=80p pd=36u as=56p ps=30u

.model nfet nmos level=1
.model pfet pmos level=1

.op
.dc VIN 0 1.8 0.01
.tran 0.1n 100n

* DC measurements
.measure dc VOH MAX v(out)
.measure dc VOL MIN v(out)
.measure dc VM  FIND v(out) WHEN v(in)=v(out)

* Timing
.measure tran TPHL TRIG v(in) VAL=0.9 RISE=1
+               TARG v(out) VAL=0.9 FALL=1

.measure tran TPLH TRIG v(in) VAL=0.9 FALL=1
+               TARG v(out) VAL=0.9 RISE=1

.measure tran TRISE TRIG v(out) VAL=0.18 RISE=1
+                TARG v(out) VAL=1.62 RISE=1

.measure tran TFALL TRIG v(out) VAL=1.62 FALL=1
+                TARG v(out) VAL=0.18 FALL=1

* Power
.measure tran IAVG AVG i(VDD)
.measure tran PAVG PARAM='-1.8*IAVG'

.control
run
.endc

.end
